US06730668B2
Preparation of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (4):
To a solution of pyrazolidine (7.8 g, 54.16 mmol) in pyridine (100 mL) is added 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester, 3, (11.5 g, 36.1 mmol). The reaction mixture is heated to 90° C. for 16 hours. The solvent is removed in vacuo and the resulting residue purified over silica (100% EtOAc, followed by 10% MeOH/EtOAc) to afford 3.9 g (37% yield) of the desired product as a yellow solid.

reactant | pyrazolidine | 54.16 mmol, 7.8 g | N1NCCC1 | C3H8N2
reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-propionic acid methyl ester | COC(C(C(=O)C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O | C15H13FN2O3S
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 3.9 g, 37% yield | FC1=CC=C(C=C1)C1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C17H15FN4OS
